US06977262B2
Benzyl 4-(2-chlorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and benzyl acetoacetate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | benzyl acetoacetate | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
product | Benzyl 4-(2-chlorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC1=CC=CC=C1)C)=NNC2 | C21H18ClN3O2
